US05114461
A solution of 4-chloro-2-nitrobenzoyl chloride (5.8 g) in dry dichloromethane (10 ml) was added over 5 minutes to a stirred solution of piperidine-2,4-dione (3.0 g) and triethylamine (5.5 ml) in dry dichloromethane (100 ml) and the mixture was stirred at ambient temperature for 3 hours. Acetone cyanohydrin (0.5 ml) was added and the mixture was stirred at ambient temperature for 18 hours. The solution was washed successively with 2N hydrochloric acid (50 ml) and water (2×100 ml), dried over sodium sulphate and evaporated under reduced pressure to give a solid residue which was recrystallised from ethyl acetate (70 ml) to give 3-(4-chloro-2-nitrobenzoyl)piperidine-2,4-dione (1.6 g), mp 161°-164° C., as a light brown crystalline solid.

reactant | 4-chloro-2-nitrobenzoyl chloride | 5.8 g | ClC1=CC(=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | piperidine-2,4-dione | 3.0 g | N1C(CC(CC1)=O)=O | C5H7NO2
reactant | triethylamine | 5.5 ml | C(C)N(CC)CC | C6H15N
reactant | Acetone cyanohydrin | 0.5 ml | CC(C#N)(O)C | C4H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-(4-chloro-2-nitrobenzoyl)piperidine-2,4-dione | 1.6 g | ClC1=CC(=C(C(=O)C2C(NCCC2=O)=O)C=C1)[N+](=O)[O-] | C12H9ClN2O5
